US08685993B2
Preparation of intermediate 1-Cyclopropyl-3-[2-(methylsulfanyl)pyrimidin-4-yl]propan-2-one (2)
To a solution of 4-methyl-2-(methylthio)pyrimidine (5.63 mL, 40.4 mmol) in THF (20 mL) at −10° C., LiHMDS (60.6 mL, 60.6 mmol) (1N in MBTE) was added dropwise under nitrogen. The reaction mixture coagulated, and stopped stirring. For this, additional THF (40 mL) was added to dissolve the highly viscous mixture. The reaction was warmed up to rt and was stirred for 30 minutes. The reaction mixture was re-cooled to −10° C., then 2-cyclopropyl-N-methoxy-N-methylacetamide (7.47 g, 40.4 mmol) was added dropwise. The reaction mixture was warmed up to rt, then stirred for an additional 2 hours. The reaction was partitioned between ammonium chloride solution and EtOAc. The organic layer was separated, and the aqueous layer was back-extracted. The organic extracts were combined, washed with brine, dried over sodium sulfate, then concentrated in vacuo. The crude product was purified by Biotage™ silica gel chromatography [100 g SNAP column, 10% EtOAc/heptane to 100% EtOAc] to obtain the desired product, which was still contaminated significantly with the starting material, 4-methyl-2-(methylthio)pyrimidine (5.63 g, 48% yield). The product was carried on to the next step without further purification. MS (ES+): m/z=223.2/224.3 (100/50) [MH+]. HPLC: tR=0.84 minute over 3 minutes. Purity: 77% [HPLC (LC/MS) at 220 nm].

reactant | 4-methyl-2-(methylthio)pyrimidine | 40.4 mmol, 5.63 mL | CC1=NC(=NC=C1)SC | C6H8N2S
reactant | LiHMDS | 60.6 mmol, 1N, 60.6 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 2-cyclopropyl-N-methoxy-N-methylacetamide | 40.4 mmol, 7.47 g | C1(CC1)CC(=O)N(C)OC | C7H13NO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1-Cyclopropyl-3-[2-(methylsulfanyl)pyrimidin-4-yl]propan-2-one | C1(CC1)CC(CC1=NC(=NC=C1)SC)=O | C11H14N2OS
